US04950666
A solution of 57.0 grams (0.226 mole) of 3-ethoxy-4-oxahexyl benzoate in 475 ml of tetrahydrofuran and 475 ml of aqueous 10% hydrochloric acid was stirred at ambient temperature for 18 hours. After this time the reaction mixture was stirred with 700 ml of diethyl ether. The organic layer was separated, washed with water, and then was dried with sodium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure yielding 28.0 grams of 3-oxopropyl benzoate. The nmr spectrum was consistent with the proposed structure.

reactant | 3-ethoxy-4-oxahexyl benzoate | 0.226 mole, 57.0 grams | C(C1=CC=CC=C1)(=O)OCCC(OCC)OCC | C14H20O4
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 700 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 475 ml | O1CCCC1 | C4H8O
product | 3-oxopropyl benzoate | 28.0 grams | C(C1=CC=CC=C1)(=O)OCCC=O | C10H10O3
